US05876756
4-Cyanobenzoic acid t-butyl ester
In 612 ml of methylene chloride was suspended 45.0 g of 4-cyanobenzoic acid and 3.1 ml of conc. sulfuric acid. To the suspension was added, while stirring at 0° C., 310 ml of isobutene. The mixture was stirred for 13 days. The reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was concentrated under reduced pressure. The resulting precipitate was collected by filtration and washed with hexane. The filtrate and the washings were combined and concentrated under reduced pressure. The concentrate was purified by silica gel chromatography (hexane/ethyl acetate=10/1), followed by crystallization from methylene chloride/petroleum ether to afford 43.1 g of the title compound as a white crystalline product.

reactant | 4-cyanobenzoic acid | 45.0 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | sulfuric acid | 3.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 310 ml | C=C(C)C | C4H8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 612 ml | C(Cl)Cl | CH2Cl2
product | 4-Cyanobenzoic acid t-butyl ester | 43.1 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#N)=O | C12H13NO2
